US07495007B2
Preparation of intermediate 1-[5-bromo-2-(1-ethoxycarbonyl-1-methyl-ethoxy)phenyl]-3-trimethylsilyoxy-2-aza-1,3-butadiene
In a manner similar to the method described in Example 1b, 2-(4-bromo-2-formyl-phenoxy)-2-methyl-propionic acid ethyl ester (g, 19 mmol) was used as the starting material in place of 3-chlorobenzaldehyde to react with LiHMDS (1M solution in THF, 19 mL, 19 mmol), trimethylsilyl chloride (2.4 mL, 19 mmol), triethylamine (3.44 mL, 24.6 mmol) and acetyl chloride (1.75 mL, 24.6 mmol) to give title compound and used for the next step without further purification.

reactant | 2-(4-bromo-2-formyl-phenoxy)-2-methyl-propionic acid ethyl ester | 19 mmol | C(C)OC(C(C)(C)OC1=C(C=C(C=C1)Br)C=O)=O | C13H15BrO4
reactant | 3-chlorobenzaldehyde | ClC=1C=C(C=O)C=CC1 | C7H5ClO
reactant | LiHMDS | 19 mmol, 1M, 19 mL | [Li+].C[Si](C)(C)[N-][Si](C)(C)C
reactant | trimethylsilyl chloride | 19 mmol, 2.4 mL | C[Si](C)(C)Cl | C3H9ClSi
reactant | triethylamine | 24.6 mmol, 3.44 mL | C(C)N(CC)CC | C6H15N
reactant | acetyl chloride | 24.6 mmol, 1.75 mL | C(C)(=O)Cl | C2H3ClO
product | 1-[5-bromo-2-(1-ethoxycarbonyl-1-methyl-ethoxy)phenyl]-3-trimethylsilyoxy-2-aza-1,3-butadiene | BrC=1C=CC(=C(C1)C=NC(=C)O[Si](C)(C)C)OC(C)(C)C(=O)OCC | C18H26BrNO4Si
